US06248259B1
Next, after dissolving 18.2 g of 4-(2-hydroxyethoxy)benzoic acid thus obtained in 300 ml of THF, 19.5 g of vinyl acrylate, 18 g of lipase PS, and a small amount of p-methoxyphenol were added to the solution followed by stirring for 3 hours at 40° C. After filtrating off lipase PS from the reaction mixture obtained, the filtrate was distilled under reduced pressure and solid residue formed was recrystallized from a 2/1 mixed solution of 2-butanone/hexane to obtain 17.5 g (yield 74%) of (4-(2-propenoyloxyethoxybenzoic acid.

reactant | 4-(2-hydroxyethoxy)benzoic acid | 18.2 g | OCCOC1=CC=C(C(=O)O)C=C1 | C9H10O4
reactant | vinyl acrylate | 19.5 g | C(C=C)(=O)OC=C | C5H6O2
reactant | p-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 2-propenoyloxyethoxybenzoic acid | yield 74% | C(C=C)(=O)OCCOC1=C(C(=O)O)C=CC=C1 | C12H12O5
